US07902373B2
Step D: 6-(3-Fluorophenyl)-N-(1-(5-methoxy-2-(pyridin-2-yl)pyrimidin-4-yl)piperidin-4-yl)nicotinamide
To a vial containing CsF (60-85 mgs, 5-7 eqs) was added (0.2 mL, 0.08 mmol) of a solution of 4-chloro-5-methoxy-2-phenylpyrimidine in DMF followed by addition of (0.22 mL, 0.088 mmol) of 6-(3-fluorophenyl)-N-(piperidin-4-yl)nicotinamide-HCl salt in DMF and triethylamine (2-3 eq). The reaction mixture was heated to 85-90° C. for 24 hrs and then allowed to cool to room temperature. The crude reaction mixture was then filtered and purified by RP-HPLC to give the desired product. 1H NMR (400 MHz, DMSO-d6) □ ppm 1.63-1.73 (m, 2H) 1.96 (d, J=10.25 Hz, 2H) 3.11-3.19 (m, 2H) 3.94 (s, 3 H) 4.18 (d, J=7.69 Hz, 1H) 4.64 (d, J=12.81 Hz, 2H) 7.31 (td, J=8.33, 2.38 Hz, 1H) 7.43 (d, J=5.12 Hz, 1 H) 7.53-7.59 (m, 1H) 7.87-7.97 (m, 2H) 8.00 (d, J=7.69 Hz, 1H) 8.12 (d, J=8.42 Hz, 1H) 8.20 (s, 1H) 8.26 (d, J=8.05 Hz, 1H) 8.29 (dd, J=8.42, 1.83 Hz, 1H) 8.50 (d, J=7.69 Hz, 1H) 8.68 (d, J=4.39 Hz, 1H) 9.08 (s, 1H); LC/MS(ES+)=485.5 observed, 485.21 expected.

reactant | CsF | 60-85 mgs | [F-].[Cs+]
reactant | 4-chloro-5-methoxy-2-phenylpyrimidine | ClC1=NC(=NC=C1OC)C1=CC=CC=C1 | C11H9ClN2O
reactant | 6-(3-fluorophenyl)-N-(piperidin-4-yl)nicotinamide-HCl salt | 0.088 mmol, 0.22 mL | Cl.FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCNCC2)C=C1
reactant | triethylamine | 2-3 eq | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-(3-Fluorophenyl)-N-(1-(5-methoxy-2-(pyridin-2-yl)pyrimidin-4-yl)piperidin-4-yl)nicotinamide | FC=1C=C(C=CC1)C1=NC=C(C(=O)NC2CCN(CC2)C2=NC(=NC=C2OC)C2=NC=CC=C2)C=C1 | C27H25FN6O2
